US03932429
A mixture of 0.4 g of 1-(3-methoxyphenyl)-6-methyl-6-azabicyclo[3,2,1]octane hydrobromide and 4 ml of aqueous 48% hydrobromic acid is refluxed for 1.5 hours. After the reaction, the mixture is concentrated under reduced pressure. Aqueous ammonia is added to the residue, and the aqueous mixture is extracted with chloroform. The chloroform extract is washed with water, dried and then evaporated to remove solvent. The residue thus obtained is recrystallized from ethylacetate. 0.245 g of 1-(3-hydroxyphenyl)-6-methyl-6-azabicyclo[3,2,1]octane is obtained. M.p. 144.5°-145.5°C.

reactant | 1-(3-methoxyphenyl)-6-methyl-6-azabicyclo[3,2,1]octane hydrobromide | 0.4 g | Br.COC=1C=C(C=CC1)C12CCCC(N(C1)C)C2
reactant | hydrobromic acid | Br | BrH
product | 1-(3-hydroxyphenyl)-6-methyl-6-azabicyclo[3,2,1]octane | 0.245 g | OC=1C=C(C=CC1)C12CCCC(N(C1)C)C2 | C14H19NO
